US09334260B2
3,3″-Bis(phenyl)-9′-[(phenyl)sulfonyl]-9,3′:6′,9″-ter-9H-carbazole (A1)
8.0 g (42.2 mmol) of copper(I) iodide and 11.7 ml (97.5 mmol) of trans-cyclohexanediamine are added to a vigorously stirred suspension of 56.9 g (234 mmol) of 2-phenylcarbazole, 54.4 g (117 mmol) of 3,6-dibromo-9-(phenylsulfonyl)-9H-carbazole and 416.4 g (1961 mmol) of potassium phosphate in 1170 ml of dioxane, and the mixture is subsequently heated under reflux for 16 h. After cooling, the precipitated solid is filtered off with suction, washed three times with 50 ml of toluene, three times with 50 ml of ethanol:water (1:1, v:v) and three times with 100 ml of ethanol. Yield: 80 g (101 mmol), 86%.

reactant | 2-phenylcarbazole | 234 mmol, 56.9 g | C1(=CC=CC=C1)C1=CC=2NC3=CC=CC=C3C2C=C1 | C18H13N
reactant | 3,6-dibromo-9-(phenylsulfonyl)-9H-carbazole | 117 mmol, 54.4 g | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)S(=O)(=O)C1=CC=CC=C1 | C18H11Br2NO2S
reactant | potassium phosphate | 1961 mmol, 416.4 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 1170 ml | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 42.2 mmol, 8.0 g | [Cu]I
product | 3,3″-Bis(phenyl)-9′-[(phenyl)sulfonyl]-9,3′:6′,9″-ter-9H-carbazole | C1(=CC=CC=C1)C=1C=CC=2N(C3=CC=CC=C3C2C1)C=1C=CC=2N(C3=CC=C(C=C3C2C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C54H35N3O2S
